US06114332
Reduction of the known [Rewcastle and Denny, Synthesis, 1985, 217] 5-fluoro-9-oxoacridan-4-carboxylic acid as above gave 5-fluoroacridine-4-carboxylic acid (90%), mp (MeOH/H2O) 295-298° C. (dec). 1H NMR [(CD3)2SO] δ 7.74-7.80 (m, 1 H, ArH), 7.90-7.96 (m, 2 H, ArH), 8.19 (d, J=8.6 Hz, 1 H, ArH), 8.61 (dd, J=8.6, 1.2 Hz, 1 H. ArH), 8.81 (dd, J=7.0, 1.0 Hz, 1 H, ArH), 9.65 (s, 1 H, H-9). Anal. (C14H8FNO2) C, H, N, F.

reactant | 5-fluoro-9-oxoacridan-4-carboxylic acid | FC1=C2NC=3C(=CC=CC3C(C2=CC=C1)=O)C(=O)O | C14H8FNO3
solvent | MeOH H2O | CO.O
product | 5-fluoroacridine-4-carboxylic acid | 90% | FC1=C2N=C3C(=CC=CC3=CC2=CC=C1)C(=O)O | C14H8FNO2
